Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Vicodin
 
Attending: ___.
 
Chief Complaint:
Chest Pain
 
Major Surgical or Invasive Procedure:
Cardiac Cath ___
1. Coronary angiography in this left dominant system 
demonstrated 
two-vessel disease. The ___ had no significant stenosis. The 
LAD had a diffuse 70% stenosis in the mid portion. The LCx had a 
99% thrombus in the proximal portion. There was a small OM2 with 
diffuse disease and high OM1 free of significant disease. The 
RCA was small and non-dominant with an anterior take-off. 
2. Inferolateral STEMI 
3. Successful aspiration thrombectomy and PCI of the proximal 
LCx with 3.0x18mm drug-eluting stent post-dilated to 3.5mm (see 
___ comments). 
4. Successful right femoral arteriotomy closure with ___ ExoSeal 
device. 

 
History of Present Illness:
___ year old female with a history of hypertension, 
hyperlidipemia, diabetes, smoking history and no known CAD who 
presented to the ED complaining of chest pressure. Patient 
reports that about six months ago started experinced substernal 
chest pressure with radiation to the neck, jaw and back on 
excertion after walking for 2 blocks which would resolve after 
resting for few seconds. In the interim she was seen by her PCP 
who recommended ___ stress test which patient refused.  Yesterday 
patient reports as she was walking outside she starting getting 
similar chest pain that were happening more frequently with less 
amount of exertion and she had to rest frequently to relieve her 
symptoms.  Then this morning at 7:30 am she was in her bed when 
she developed ___ dull ache in the chest associated with 
worsening SOB, nausea and diaphoresis.  She took aspirina and 
tylenol which did not relive her symptoms.  She continued to 
have constant pain and SOB until 12:30pm when her daugther 
insisteted that she co to the ED and called EMS. EMS arrived 
today and administered aspirin and one nitroglycerin and her 
symptoms almost completely resolved. She has not had any recent 
surgeries travel immobilization, no history of thromboembolic 
disease in self or family.
.
Initial vitals in ED triage were T 97.2, HR 114, BP 127/70, RR 
22, and SpO2 90% on RA.  Initial Troponin was 0.03 with CK 101 
and CKMB 5.  Labs were notable for WBC 13.0 (N 87.8%), Hct 36.4 
(unclear baseline), Plt 269, Cr 1.1 (at baseline), unremarkable 
electrolytes, and normal coags. EKG showed sinus tachycardia 
with inferolateral 
.
Code STEMI was called.  She was given Nitroglycerin SL, Morphine 
5 mg IV, Metoprolol 5 mg IV, and started on a Heparin drip.  She 
was taken directly to the cath lab.  Vitals prior to cath lab 
transfer were HR 125, BP 156/84, RR 24, and SpO2 96% on RA.  She 
was found to have a proximal LCx 99% lesion with thrombus which 
was treated with Export aspiration thrombectomy followed by PTCA 
and stenting with a Promus DES.  Her RFA access site was closed 
with a ___ ExoSeal device.   She was admitted to the CCU for 
post-cath monitoring.  
.
On reaching the CCU, she reports feeling well without any chest 
pain or shortness of breath.  She dnies any hsitory of 
orthiopnea, PND or peripheral edema, syncope, lightheadedness.
 
Past Medical History:
# Cardiac Risk Factors: (+)Diabetes, (+)Dyslipidemia, 
(+)Hypertension
# Diabetes ___ Type 2
-- last HgbA1c 8.3% on ___
# Diabetic Neuropathy
# CKD Stage 3 -- eGFR ___ ml/min
# Hypothyroidism
# MRSA Cellulitis History
# Obesity
# Anxiety
 
Social History:
___
Family History:
# Father -- cancer, alcoholism, died at age ___
# Mother -- glaucoma
# Brother -- died from prostate cancer
# Sister -- ___ at age ___ still living
# Daughters -- diabetes ___ type 2--> now resolved after 
bypasss usrgery.
 
Physical Exam:
Gen: Elderly obese female in NAD. Oriented x3. Mood, affect 
appropriate.
HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva without 
pallor or injection. MMM, OP clear.
Neck: Supple, full ROM. JVP ___. No cervical lymphadenopathy. 
CV: PMI not displaced. RRR with normal S1, S2. No M/R/G. No 
thrills or lifts. No S3 or S4.
Chest: Respiration unlabored, no accessory muscle use. CTAB with 
no crackles, wheezes or rhonchi.
Abd: Soft, NT, ND. No organomegaly. Abdominal aorta not enlarged 
by palpation. No abdominal bruits.
Ext: WWP. No femoral bruits. Distal pulses intact 2+ radial, DP, 
and ___.
Skin: No stasis dermatitis, ulcers, rashes, or other lesions.
Neuro: Alert and Oriented x3.
 
Pertinent Results:
___ 01:45PM BLOOD cTropnT-0.03*
___ 05:51AM BLOOD CK-MB-14* cTropnT-0.66*
___ 11:38PM BLOOD CK-MB-5
___ 06:05AM BLOOD CK-MB-4
___ 01:45PM BLOOD WBC-13.0*# RBC-4.33 Hgb-12.0 Hct-36.4 
MCV-84 MCH-27.8 MCHC-33.1 RDW-15.4 Plt ___
___ 06:05AM BLOOD WBC-8.9 RBC-3.52* Hgb-9.7* Hct-29.5* 
MCV-84 MCH-27.6 MCHC-33.0 RDW-15.7* Plt ___
___ 06:05AM BLOOD Glucose-200* UreaN-15 Creat-1.0 Na-137 
K-4.9 Cl-102 HCO3-24 AnGap-16

Cardiac Echo:
The left atrium is elongated. There is mild symmetric left 
ventricular hypertrophy. The left ventricular cavity is 
moderately dilated. There is an inferobasal left ventricular 
aneurysm. Overall left ventricular systolic function is severely 
depressed (LVEF = 25 %) secondary to severe hypokinesis/akinesis 
of the inferior septum, inferior free wall, posterior wall, and 
lateral wall. Right ventricular chamber size and free wall 
motion are normal. The aortic valve is not well seen. There is 
no aortic valve stenosis. No aortic regurgitation is seen. The 
mitral valve leaflets are mildly thickened. There is no mitral 
valve prolapse. Moderate (2+) mitral regurgitation is seen. The 
estimated pulmonary artery systolic pressure is normal. There is 
no pericardial effusion.

Impression: inferoposterolateral myocardial infarct; severe left 
ventricular systolic dysfunction; inferobasal aneurysm  

Cardiac Cath:
1. Coronary angiography in this left dominant system 
demonstrated 
two-vessel disease. The ___ had no significant stenosis. The 
LAD had a 
diffuse 70% stenosis in the mid portion. The LCx had a 99% 
thrombus in 
the proximal portion. There was a small OM2 with diffuse disease 
and 
high OM1 free of significant disease. The RCA was small and 
non-dominant 
with an anterior take-off. 
2. Inferolateral STEMI 
3. Successful aspiration thrombectomy and PCI of the proximal 
LCx with 
3.0x18mm drug-eluting stent post-dilated to 3.5mm (see ___ 
comments). 
4. Successful right femoral arteriotomy closure with ___ ExoSeal 
device. 
 
Brief Hospital Course:
___ year old female with a history of hypertension, 
hyperlidpiemia, diabetes, smoking history and no prior known CAD 
who presented found to be having a inferolateral STEMI with 
thrombotic lesion in the proximal LCx treated successfully with 
aspiration thrombectomy and DES.

Active Issues addressed on this hospitalization:
# Inferolateral STEMI: Patient with multiple cardiovascualr risk 
factors (obeseity, HTN, HLD, smoking history)and 6 months of 
exertional chest pain presented LCx STEMI. She had successful 
PCI to the LCx with placement of a DES. She did well 
post-procedure. She was started on ASA 81mg, Plavix, Metoporol, 
and atrovastatin and her home lisinopril was continued. She had 
a follow up echo (report included in this D/C summary) that 
showed significant wall motion abnormalitis with a moderatly 
depressed ejection fraction. She will follow up with Dr. ___ as 
an outpatient for follow up cardiac echo and for nuclear stress 
test for her CAD as discussed below. 

# CAD: The patient had a stent to the LCx but was also found to 
have that her LAD had a diffuse 70% stenosis in the mid portion. 
There was a small OM2 with diffuse disease and high OM1 free of 
significant disease. The RCA was small and non-dominant 
with an anterior take-off. She has proper medical managment for 
this level of disease at this time. It was also stressed to her 
that she needed to keep her diabetes under better contol and she 
should exercise more often. She will need outpatient MIBI for 
evaluation of this lesion. 

Chronic Issues:
# HTN: Her blood pressures following the PCI were well 
controlled on Metoprolol and Lisinopril. Her HCTZ was held given 
her SBP in the 110s-120s.

#DM: She was placed on a insulin sliding scale while 
hospitalized as she recieved contrast for her PCI. She was 
instructed to restart her home medications at time of discharge. 


Transitional Issues:
# LAD had a diffuse 70% stenosis in the mid portion. She will 
need outpatient MIBI for evaluation of this lesion. This will be 
scheduled with Dr. ___. 

# HTN: Her HCTZ was stopped on this admission in favor of 
starting a beta-blocker in the ___ time. Her blood pressure 
was well controlled with SBP in the 110s-120s and so she was 
instructed to not restart the HCTZ until instructed to do so by 
her PCP. 

# DM: At time of discharge the patient had a A1c pending. The 
patietn last had her A1c checked in ___ and was elevated at 
that time. 

 
Medications on Admission:
Preadmission medications listed are correct and complete.  
Information was obtained from Patient.
1. Gabapentin 900 mg PO QID 
2. Levothyroxine Sodium 100 mcg PO DAILY 
3. Lisinopril 40 mg PO DAILY 
4. MetFORMIN (Glucophage) 850 mg PO BID 
5. Hydrochlorothiazide 12.5 mg PO DAILY 
6. Duloxetine 30 mg PO BID 
7. GlipiZIDE 5 mg PO BID 
 
Discharge Medications:
1. Duloxetine 30 mg PO BID 
2. Gabapentin 900 mg PO QID 
3. Levothyroxine Sodium 100 mcg PO DAILY 
4. Lisinopril 40 mg PO DAILY 
5. Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth Daily Disp #*30 Tablet 
Refills:*0
6. Atorvastatin 80 mg PO DAILY 
RX *atorvastatin 80 mg 1 tablet(s) by mouth Daily Disp #*30 
Tablet Refills:*0
7. GlipiZIDE 5 mg PO BID 
8. MetFORMIN (Glucophage) 850 mg PO BID 
9. Metoprolol Succinate XL 200 mg PO DAILY 
RX *metoprolol succinate 200 mg 1 tablet(s) by mouth Daily Disp 
#*30 Tablet Refills:*0
10. Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth Daily Disp #*30 
Tablet Refills:*0
11. Nitroglycerin SL 0.4 mg SL PRN chest pain 
Please take every 5 mintues as needed for chest pain. Please 
take only 3 and call your doctor or 911 if the pain does not 
resolve. 
 
Discharge Disposition:
Home
 
Discharge Diagnosis:
ST-Elevated Myocardial Infarction

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mrs. ___,

___ were hospitalized for a heart attack (myocardial 
infarction). ___ had a blockage of an artery in your heart (the 
Left Circumflex Artery) that was opened up and a stent was 
placed. ___ were monitored overnight in the Cardiac ICU and ___ 
did well. ___ were started on a number of new medications 
because of the heart attack. They are listed below. Please take 
the medications as directed and do not stop the Plavix without 
your cardiologist telling ___ that it is ok to do so. It is also 
important that ___ take your medications for your diabetes as 
your doctor ___ them to ___ because if your diabetes is 
not controlled it will make having an additional heart attack 
more likely. 

We are also giving ___ a perscription for nitroglycerin. Please 
take every 5 mintues as needed for chest pain. Please take only 
3 and call your doctor or 911 if the pain does not resolve. 

Please Start:
Plavix (Clopidogrel) 75mg Daily
Metoprolol succinate 200mg Daily
Aspirin 81mg Daily
Nitro 04.mg Under your tounge every 5 mintues as needed for 
chest pain. Please take only 3 and call your doctor or 911 if 
the pain does not resolve. 

Please Stop until ___ see your Primary Care Doctor:
Hydrochlorothiazide - Please stop this becase we started other 
medication for your heart and your blood pressure has been in 
the 110s-120s without this medication. Your primary care doctor 
___ let ___ know if ___ should restart this medication. 
 
Followup Instructions:
___